US05705515
To o-iodoxybenzoic acid (1.036g, 3.7 mmol) in dimethyl sulfoxide (7.4 mL) was added furo[2,3-b]pyridine-5-methanol (500 mg, 3.36 mmol). Stirring was continued for 2.5 h before the addition of water, filtration, and extraction of the filtrate with ethyl ether (3×30 mL). The organic phase was washed with brine (10 mL), dried with magnesium sulfate, and concentrated. Purification by flash chromatography (silica gel, 25% ethyl acetate/hexane) yielded 5-formyl-furo[2,3-b]pyridine (270 mg, 55%). This material (260 mg, 1.77 mmol) in toluene/tetra-hydrofuran (2 mL each) was added at -78° C. to a solution of methyltriphenyl-phosphorane (2.12 mmol) in toluene (15 mL). Stirring was continued at this temperature for 15 min, followed by warming to 20° C. over 1 h. Dilution with ethyl ether was followed by filtration through celite, and concentration. Purification by flash chromatography (silica gel, 25% ethyl acetate/hexane) yielded 241.5 mg (94% yield) of the title compound as a colorless oil: 1H NMR (CDCl3) ∂8.32 (d,1H, J=2 Hz), 7.97 (d, 1H, J=2 Hz), 7.68 (d,1H, J=2 Hz), 6.80 (dd, 1H, J=18+12 Hz), 6.76 (d, 1H, J=2 Hz), 5.79 (d,1H, J=18 Hz), 5.32 (d, 1H, J=12 Hz).

reactant | o-iodoxybenzoic acid | 3.7 mmol, 1.036g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | furo[2,3-b]pyridine-5-methanol | 3.36 mmol, 500 mg | O1C=CC=2C1=NC=C(C2)CO | C8H7NO2
reactant | water | O | H2O
reactant | ethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | dimethyl sulfoxide | 7.4 mL | CS(=O)C | C2H6OS
product | 5-formyl-furo[2,3-b]pyridine | 270 mg, 55% | C(=O)C=1C=C2C(=NC1)OC=C2 | C8H5NO2
